US08580785B2
a) Preparation of 6-amino-7-chloro-1,2-dimethyl-1H-benzoimidazole-5-carboxylic acid methyl ester
To a suspension of 1 g (3.48 mmol) of 2,5-diamino-3-chloro-4-methylamino-benzoic acid methyl ester (synthesis described in example H7) in 153 mL of EtOH is added 680 mg (6.97 mmol) of acetamidine hydrochloride. The mixture is stirred 2 days at a temperature of 80° C. Then, all the solvent is evaporated and the residue is suspended in EtOAc, the formed precipitate is filtrated and after evaporation the filtrate is purified by flash chromatography on silica gel and gave 510 mg (2.01 mmol, 58%) of a brown-reddish solid. LC/MS: 254/256 (M+1)+.

reactant | 2,5-diamino-3-chloro-4-methylamino-benzoic acid methyl ester | 3.48 mmol, 1 g | COC(C1=C(C(=C(C(=C1)N)NC)Cl)N)=O | C9H12ClN3O2
reactant | acetamidine hydrochloride | 6.97 mmol, 680 mg | Cl.C(C)(=N)N
reactant | EtOH | 153 mL | CCO | C2H6O
product | 6-amino-7-chloro-1,2-dimethyl-1H-benzoimidazole-5-carboxylic acid methyl ester | 2.01 mmol, 510 mg, 58% | COC(=O)C1=CC2=C(N(C(=N2)C)C)C(=C1N)Cl | C11H12ClN3O2
